US05990144
N-Benzyl-[2-(2-methylamino-3-nitro-phenoxy)-ethyl]-carbamic acid tert-butyl ester
A solution of N-benzyl-2-(2-methylamino-3-nitro-phenoxy)-ethylamine (480 mg, 1.59 mmol) and di-tert-butyl dicarbonate (348 mg, 1.59 mmol) in anhydrous tetrahydrofuran (6 mL) was allowed to stir for 3 hr. The reaction mixture was poured into methylene chloride (80 mL) and washed with water (50 mL). The organic layer dried over anhydrous magnesium sulfate, filtered, and the solvent evaporated to afford 593 mg (93%) of an orange solid, mp 91-93° C.; MS m/e EI 401 (M+).

reactant | N-benzyl-2-(2-methylamino-3-nitro-phenoxy)-ethylamine | 1.59 mmol, 480 mg | C(C1=CC=CC=C1)NCCOC1=C(C(=CC=C1)[N+](=O)[O-])NC | C16H19N3O3
reactant | di-tert-butyl dicarbonate | 1.59 mmol, 348 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-Benzyl-[2-(2-methylamino-3-nitro-phenoxy)-ethyl]-carbamic acid tert-butyl ester | 593 mg, 93% | C(C)(C)(C)OC(N(CC1=CC=CC=C1)CCOC1=C(C(=CC=C1)[N+](=O)[O-])NC)=O | C21H27N3O5
